US08309600B2
A solution of 4-fluoro-2-methylphenol (10 g, 79.28 mmol), ethyl 2-bromoisobutyrate (23.2 mL, 158.6 mmol), potassium carbonate (21.9 g, 158.6 mmol), and DMSO (80 mL) was stirred at room temperature for 72 hours. Water and ethyl acetate were added and the layers were separated. The aqueous phase was extracted with ethyl acetate (3×50 mL) and the combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The crude compound was purified by flash column chromatography on silica gel with hexanes and EtOAc (20%) to afford ethyl 2-(4-fluoro-2-methylphenoxy)-2-methylpropanoate. To a solution of ethyl 2-(4-fluoro-2-methylphenoxy)-2-methylpropanoate (13.3 g, 55.44 mmol) in tetrahydrofuran (40 mL) and methanol (10 mL) was added NaOH (6.66 g, 166.32 mmol) in water (14 mL) and stirred overnight. The volatiles were removed in vacuo and acidified with concentrated HCl. The milky white solution was extracted with ethyl acetate, dried over sodium sulfate, filtered and concentrated in vacuo to give 2-(4-fluoro-2-methylphenoxy)-2-methylpropanoic acid (658) as a yellow solid.

reactant | 4-fluoro-2-methylphenol | 79.28 mmol, 10 g | FC1=CC(=C(C=C1)O)C | C7H7FO
reactant | ethyl 2-bromoisobutyrate | 158.6 mmol, 23.2 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 158.6 mmol, 21.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 80 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | ethyl 2-(4-fluoro-2-methylphenoxy)-2-methylpropanoate | FC1=CC(=C(OC(C(=O)OCC)(C)C)C=C1)C | C13H17FO3
